US07700628B2
C. Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-hydroxybenzoate
The methyl 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoate (12.8 g) was dissolved in EtOH (135 mL). 10% Pd/C catalyst (1.3 g) was added and the reaction was placed under an H2 atmosphere (4.1 bar) for 4 h at room temperature. The catalyst was filtered and the ethanol was removed in vacuo to give 9.15 g (89.7%) of a white foam.

reactant | methyl 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoate | 12.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C25H31NO6
solvent | EtOH | 135 mL | CCO | C2H6O
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-hydroxybenzoate | 9.15 g, 89.7% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)O | C18H25NO6
